US07759373B2
To a solution of 2-[(4-fluorobenzoylamino)acetyl]thiophene (527 mg) in N,N-dimethylformamide (10 ml) was added sodium hydride (88 mg, 60% mineral oil) under ice-cooling, and the mixture was stirred under argon atmosphere at room temperature for one hour. After ice-cooling, acrylonitrile (127 ml) was added to the mixture and the mixture was stirred at room temperature for 3 hours. After addition of ice-water, the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was dissolved in N,N-dimethylformamide (10 ml), and phosphoryl chloride (240 μl) was added to the solution under ice-cooling. The mixture was stirred under argon atmosphere at room temperature for 3 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, the mixture was extracted with ethyl acetate and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: hexane:ethyl acetate=9:1→7:1), and triturated with hexane and ethyl acetate to obtain 4-(2-cyanoethyl)-2-(4-fluorophenyl)-5-(2-thienyl)oxazole (132 mg) as colorless powder.

reactant | 2-[(4-fluorobenzoylamino)acetyl]thiophene | 527 mg | FC1=CC=C(C(=O)NCC(=O)C=2SC=CC2)C=C1 | C13H10FNO2S
reactant | sodium hydride | 88 mg | [H-].[Na+]
reactant | acrylonitrile | 127 ml | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(2-cyanoethyl)-2-(4-fluorophenyl)-5-(2-thienyl)oxazole | 132 mg | C(#N)CCC=1N=C(OC1C=1SC=CC1)C1=CC=C(C=C1)F | C16H11FN2OS
